### PR TITLE
feat(RingTheory/MvPolynomial): define generic determinantal ideals

### PR DESCRIPTION
**Pull request by WangJiabai**
This PR adds a foundational API for determinantal ideals of the generic matrix.

It defines `Matrix.MinorIndex`, the corresponding minors of the existing generic
matrix `Matrix.mvPolynomialX`, the finite set of all `t × t` generic minors, and
the ideal generated by these minors in `MvPolynomial (Fin m × Fin n) R`.

It also proves basic membership, evaluation, coefficient-map/base-change, and
finite-generation lemmas.

This PR intentionally does not include the Sturmfels/KRS/straightening/Groebner
part of the development.

---

Additional context:

This is extracted and refactored from a standalone project on determinantal
ideals and the Gröbner-basis theorem for generic determinantal ideals:
https://github.com/WangJiabai/Determinantal-Ideals-Formalization

The current PR is intentionally limited to the small foundational API for
generic minors and generic determinantal ideals.

AI use:

ChatGPT was used for planning/refactoring discussion, and Codex was used to
draft some proof scripts. I reviewed the statements and proofs and am
responsible for the submitted code.
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by WangJiabai** [comment]
LLM-generated

File: Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean [hunk 1]
```diff
@@ -0,0 +1,226 @@
...
+
+/-- Index data for a `t × t` minor of an `m × n` matrix.
+
+The row and column choices are encoded as order embeddings, so the selected indices are listed
+in strictly increasing order. -/
+structure MinorIndex (m n t : ℕ) where
+  /-- The chosen row indices, in increasing order. -/
+  row : Fin t ↪o Fin m
+  /-- The chosen column indices, in increasing order. -/
+  col : Fin t ↪o Fin n
```
Comment (tb65536) [inline Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean]: It's a little unclear to me the utility of having this packaged `MinorIndex` over just using two separate order embeddings. Could you refactors this PR without this for now, and later after more material is added, we can reassess whether having this structure is useful?

Comment (WangJiabai) [reply Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean]: Thanks for the suggestion. I've refactored the PR to use two separate order embeddings instead of MinorIndex.

File: Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean [hunk 2]
```diff
@@ -0,0 +1,193 @@
...
+This file defines minors of the generic matrix `Matrix.mvPolynomialX` and the ideal generated
+by all minors of a fixed size.
+-/
+
+@[expose] public section
+
+namespace Matrix
+
+/-- The concrete minor of a matrix selected by row and column order embeddings. -/
+def detSubmatrix {R : Type*} [CommRing R] {m n t : ℕ}
```
Comment (tb65536) [inline Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean]: You should probably add a variables line to the top of the file with these repeatedly used variables.

File: Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean [hunk 3]
```diff
@@ -21,44 +21,44 @@ by all minors of a fixed size.
 
 namespace Matrix
 
+section ConcreteMinor
+
+variable {R : Type*} [CommRing R] {m n t : ℕ}
```
Comment (tb65536) [inline Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean]: No need for all these sections. You may as well just use the same variables throughout.

File: Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean (hunk 2 above)
Comment (WangJiabai) [reply Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean]: Thanks! I’ve reorganized the variable declarations so that repeatedly used variables are now declared in the relevant namespaces and sections.

File: Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean (hunk 3 above)
Comment (WangJiabai) [reply Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean]: I've reorganized the variable declarations following the conventions used in nearby files, keeping shared variables together without adding extra sections.

File: Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean [hunk 4]
```diff
@@ -0,0 +1,208 @@
...
+by all minors of a fixed size.
+-/
+
+@[expose] public section
+
+variable {R S : Type*}
+
+namespace Matrix
+
+variable [CommRing R] [CommRing S] {m n t : ℕ}
```
Comment (tb65536) [inline Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean]: I don't think there's any need to split your variables up like this?

Comment (WangJiabai) [reply Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean]: Done, I've combined the type variables and their typeclass assumptions into a single declaration.

**Comment by WangJiabai** [comment]
-awaiting-author

File: Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean [hunk 5]
```diff
@@ -0,0 +1,206 @@
...
+by all minors of a fixed size.
+-/
+
+@[expose] public section
+
+variable {R S : Type*} [CommRing R] [CommRing S]
+
+namespace Matrix
+
+variable {m n t : ℕ}
```
Comment (tb65536) [inline Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean]: Why not move these outside the namespace?

Comment (WangJiabai) [reply Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean]: OK, I've moved these variables outside the namespace.

File: Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean [hunk 6]
```diff
@@ -0,0 +1,204 @@
...
+end Matrix
+
+namespace MvPolynomial
+
+variable (R m n t)
+
+/-- The finite set of all `t × t` minors of the generic `m × n` matrix. -/
+noncomputable def determinantalMinorFinset :
+    Finset (MvPolynomial (Fin m × Fin n) R) := by
+  classical
```
Comment (tb65536) [inline Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean]: I think `open Classical in` is preferable to avoid the tactic mode proof (since this is data, not a `Prop`).

File: Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean [hunk 7]
```diff
@@ -0,0 +1,204 @@
...
+    (row : Fin t ↪o Fin m) (col : Fin t ↪o Fin n) :
+    Matrix.mvPolynomialMinor R row col ∈ determinantalIdeal R m n t := by
+  exact Ideal.subset_span (mem_determinantalMinorFinset.2 ⟨row, col, rfl⟩)
+
+/-- A determinantal ideal is contained in `J` iff every generating minor belongs to `J`. -/
+theorem determinantalIdeal_le_iff
+    {J : Ideal (MvPolynomial (Fin m × Fin n) R)} :
+    determinantalIdeal R m n t ≤ J
+      ↔ ∀ (row : Fin t ↪o Fin m) (col : Fin t ↪o Fin n),
+        Matrix.mvPolynomialMinor R row col ∈ J := by
```
Comment (tb65536) [inline Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean]: These excess newlines are not necessary.

File: Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean (hunk 6 above)
Comment (WangJiabai) [reply Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean]: I agree, and I've made the change.

File: Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean (hunk 7 above)
Comment (WangJiabai) [reply Mathlib/RingTheory/MvPolynomial/DeterminantalIdeal.lean]: I've removed these unnecessary line breaks and similar ones elsewhere in the file.

**Review by tb65536 — COMMENTED** [review]
Someone with a better understanding of the mathematics should look this over for generality and suitability for mathlib.
